US04000154
A solution of 10.5 g (26.7 mmole) of methyl 3-t-butoxycarbonylamino-1-(2,4-dimethoxybenzyl)-4-oxoazetidine-2-carboxylate in 500 ml of acetonitrile was degassed with argon and warmed to 80°. A degassed solution of 15 g (55.5 mmole) of potassium persulfate and 7.5 g (28 mmole) of sodium monohydrogen phosphate in 150 ml of water was added in five portions over 1 hour. The reaction was stirred at 80°-85° under argon for 2-3 hours until all starting material had disappeared (tlc). The reaction mixture was cooled, concentrated in vacuo and shaken with ethyl-acetate water. The organic phase was washed with dilute hydrochloric acid, aqueous sodium bicarbonate solution and brine, dried (MgSO4) and evaporated to dryness. The residue was chromatographed on silica gel with 1:1 benzene:ethyl acetate to afford pure product which crystallized from ethyl acetate-hexane to give methyl cis-3-t-butoxycarbonylamino-4-oxoazetidine-2-carboxylate, mp 140°-144°.

reactant | methyl 3-t-butoxycarbonylamino-1-(2,4-dimethoxybenzyl)-4-oxoazetidine-2-carboxylate | 26.7 mmole, 10.5 g | C(C)(C)(C)OC(=O)NC1C(N(C1=O)CC1=C(C=C(C=C1)OC)OC)C(=O)OC | C19H26N2O7
reactant | potassium persulfate | 55.5 mmole, 15 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | sodium monohydrogen phosphate | 28 mmole, 7.5 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
solvent | water | 150 ml | O | H2O
product | methyl cis-3-t-butoxycarbonylamino-4-oxoazetidine-2-carboxylate | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](NC1=O)C(=O)OC | C10H16N2O5
